US07544702B2
A solution of 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl) -phenylsulfanyl]-isonicotinic acid (173 mg, 0.29 mmol), N,O-dimethylhydroxylamine hydrochloride (84 mg, 0.86 mmol), TBTU (276 mg, 0.86 mmol) and DIPEA (0.18 ml, 1 mmol) in DMF (10 ml) was stirred at room temperature overnight under nitrogen. The reaction was diluted with ethyl acetate (25 ml), washed with brine (3×25 ml), dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography using methanol 1/9 chloroform as eluent to afford 2-(2,4-dichloro -benzenesulfonylamino)-N-methoxy-N-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinamide as a yellow oil (153 mg, 82%). 1H NMR (CDCl3): 8.40 (1H, s, Ar); 8.07 (1H, d, Ar); 7.53 (2H, d, Ar); 7.46 (1H, s, py); 7.34 (1H, d, Ar); 7.22 (3H, m, py and Ar); 3.34 (3H, s, CH3O); 3.24 (3H, s, CH3N); 2.88 (4H, m, 2×CH2N pip); 1.55 (4H, m, 2×CH2 pip); 1.33 (2H, m, CH2 pip).

reactant | 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl) -phenylsulfanyl]-isonicotinic acid | 0.29 mmol, 173 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC=1C=C(C(=O)O)C(=CN1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C23H21Cl2N3O6S3
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.86 mmol, 84 mg | Cl.CNOC
reactant | TBTU | 0.86 mmol, 276 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1 mmol, 0.18 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichloro -benzenesulfonylamino)-N-methoxy-N-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinamide | 153 mg, 82% | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC=1C=C(C(=O)N(C)OC)C(=CN1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C25H26Cl2N4O6S3
